US07745642B2
(±)2-Chloro-N-[2-methyl-2-(2-methyl-1-pyrrolidinyl)-1-phenylpropyl]-3-(trifluoromethyl)benzamide Diastereomers
A mixture of [2-methyl-2-(2-methyl-1-pyrrolidinyl)-1-phenylpropyl]amine D26 (0.150 g; 0.647 mmol), 2-chloro-3-(trifluoromethyl)benzoic acid (0.174 g; 0.775 mmol), EDC (0.149 g; 0.777 mmol) and HOBt (0.020 g; 0.148 mmol) in DCM (4 ml) was shaken at room temperature for 66 hours. Saturated sodium hydrogen carbonate (8 ml) was added and shaking continued for 0.5 hours. The organic layer was passed through a phase separation cartridge and applied to a 2 g SCX column. The column was washed with DCM and methanol and the product eluted with 1M ammonia in methanol. The crude product was purified by chromatography on silica gel (20 g) eluting with 0-100% ethyl acetate in pentane gradient to afford the title compound as two pairs of enantiomers.

reactant | [2-methyl-2-(2-methyl-1-pyrrolidinyl)-1-phenylpropyl]amine | CC(C(C1=CC=CC=C1)N)(C)N1C(CCC1)C | C15H24N2
reactant | 2-chloro-3-(trifluoromethyl)benzoic acid | 0.775 mmol, 0.174 g | ClC1=C(C(=O)O)C=CC=C1C(F)(F)F | C8H4ClF3O2
reactant | EDC | 0.777 mmol, 0.149 g
reactant | HOBt | 0.148 mmol, 0.020 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | sodium hydrogen carbonate | 8 ml | C(O)([O-])=O.[Na+]
solvent | DCM | 4 ml | C(Cl)Cl | CH2Cl2
product | (±)2-Chloro-N-[2-methyl-2-(2-methyl-1-pyrrolidinyl)-1-phenylpropyl]-3-(trifluoromethyl)benzamide | ClC1=C(C(=O)NC(C(C)(N2C(CCC2)C)C)C2=CC=CC=C2)C=CC=C1C(F)(F)F | C23H26ClF3N2O
